US05451691
1,30-Dihydroxytriaconta-12,18-Diyne (37)
A solution of octadiyne (9.3 ml; 0.07 mol) in dry THF (200 ml) at 0° C. under nitrogen was treated with HMPA (24.38 ml, 0.14 mol) and n-butyllithium (87.61 ml of a 1.6M solution in hexane; 0.14 mol). The resulting solution was left for ten minutes at 0° C. and then treated with a solution of 11-bromoundecanol (47 g, 0.14 mol). The resulting solution was allowed to stir at room temperature for four hours and then heated at reflux overnight, cooled, diluted with water and extracted with ether. The organic layer was washed with water twice, then dried, evaporated and the residue dissolved in methanol (60 ml). This solution was treated with a catalytic amount of toluenesulphonic acid and heated at reflux for ten minutes. On cooling the title compound (37) separated as pale yellow crystals (18.42 g, 59%).

reactant | octadiyne | 0.07 mol, 9.3 ml | C#CC#CCCCC | C8H10
reactant | HMPA | 0.14 mol, 24.38 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | n-butyllithium | C(CCC)[Li]
reactant | 11-bromoundecanol | 0.14 mol, 47 g | BrCCCCCCCCCCCO | C11H23BrO
reactant | water | O | H2O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 1,30-Dihydroxytriaconta-12,18-Diyne | OCCCCCCCCCCCC#CCCCCC#CCCCCCCCCCCCO | C30H54O2
